US08957069B2
4-{5-[4-(4-Methoxyphenyl)piperazin-1-yl]-2,2,6,7-tetramethyl-2,3-dihydro-1-benzofuran-4-yl}-N,N-dimethylaniline
To the THF (15 mL) suspension of lithium aluminum hydride (342 mg, 9.00 mmol), aluminum chloride (1.20 g, 9.00 mmol) was added under ice cooling, and then the mixture was stirred for 10 minutes and added with the THF (25 mL) solution of 4-[4-(dimethylamino)phenyl]-5-[4-(4-methoxyphenyl)piperazin-1-yl]-2,2,6,7-tetramethyl-1-benzofuran-3(2H)-one (1.50 g, 3.00 mmol) synthesized in Reference example 31, followed by further stirring for 2.5 hours under reflux. After cooling the mixture solution on ice, water was added dropwise thereto and 0.5 N aqueous solution of sodium hydroxide was further added. The mixture was stirred for 10 minutes at room temperature. Undissolved residues were removed by filtration. The filtrate was extracted with the mixture solvent of ethyl acetate-ether (1:1). After washing with the saturated brine, the extract solution was dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure. The resulting residue was purified by silica gel chromatography (hexane-ethyl acetate 96:4-85:15) and crystallized from ethyl acetate and hexane to obtain the title compound 1.01 g (yield 69%). Melting point was 177 to 179° C. (ethyl acetate-hexane).

reactant | lithium aluminum hydride | 9.00 mmol, 342 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | aluminum chloride | 9.00 mmol, 1.20 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 4-[4-(dimethylamino)phenyl]-5-[4-(4-methoxyphenyl)piperazin-1-yl]-2,2,6,7-tetramethyl-1-benzofuran-3(2H)-one | 3.00 mmol, 1.50 g | CN(C1=CC=C(C=C1)C1=C(C(=C(C2=C1C(C(O2)(C)C)=O)C)C)N2CCN(CC2)C2=CC=C(C=C2)OC)C | C31H37N3O3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 4-{5-[4-(4-Methoxyphenyl)piperazin-1-yl]-2,2,6,7-tetramethyl-2,3-dihydro-1-benzofuran-4-yl}-N,N-dimethylaniline | 1.01 g, yield 69% | COC1=CC=C(C=C1)N1CCN(CC1)C=1C(=C(C2=C(CC(O2)(C)C)C1C1=CC=C(N(C)C)C=C1)C)C | C31H39N3O2
